US04592866
2-[2-[4-[Bis(4-fluorophenyl)methyl]-1-piperidinyl]ethyl]-2,3-dihydro-4-methylpyrido[3,2-f][1,4]-oxazepin-5(4H)-one dihydrochloride hemihydrate
Ten grams (0.036 mole) of 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f]-1,4-oxazepin-5-(4H)-one hydrochloride were partitioned between dilute sodium hydroxide and chloroform. The chloroform was dried over sodium sulfate and concentrated on the rotary evaporator. The residue was dissolved in 50 ml of ethanol and 10.3 g (0.036 mole) of 4-[bis(4-fluorophenyl)-methyl]piperidine was added. The solution was heated to reflux for 18 hr and concentrated on the rotary evaporator. The residue was partitioned between dilute sodium hydroxide and chloroform. The chloroform was dried over anhydrous sodium sulfate and concentrated. The residue was chromatographed on a Waters 500 HPlC (silica/92% ethyl acetate-8% triethylamine). After concentration of the desired product, the residue was dissolved in isopropyl alcohol and treated with ethereal hydrogen chloride. The resulting crystals weighed 3 g (14%) and melted at 160°-180° C.

reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f]-1,4-oxazepin-5-(4H)-one hydrochloride | 0.036 mole, Ten grams | Cl.ClCCC1OC2=C(C(N(C1)C)=O)C=CC=N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-[bis(4-fluorophenyl)-methyl]piperidine | 0.036 mole, 10.3 g | FC1=CC=C(C=C1)C(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-[2-[4-[Bis(4-fluorophenyl)methyl]-1-piperidinyl]ethyl]-2,3-dihydro-4-methylpyrido[3,2-f][1,4]-oxazepin-5(4H)-one dihydrochloride hemihydrate | O.Cl.Cl.FC1=CC=C(C=C1)C(C1CCN(CC1)CCC1OC2=C(C(N(C1)C)=O)C=CC=N2)C2=CC=C(C=C2)F.FC2=CC=C(C=C2)C(C2=CC=C(C=C2)F)C2CCN(CC2)CCC2OC1=C(C(N(C2)C)=O)C=CC=N1.Cl.Cl | InChI=1S/2C29H31F2N3O2.4ClH.H2O/c2*1-33-19-25(36-28-26(29(33)35)3-2-15-32-28)14-18-34-16-12-22(13-17-34)27(20-4-8-23(30)9-5-20)21-6-10-24(31)11-7-21;;;;;/h2*2-11,15,22,25,27H,12-14,16-19H2,1H3;4*1H;1H2
